US07271262B2
300D. 1-[3-(4-Amino-7-piperidin-4-yl-7H-pyrrolo[23-d]pyrimidine-5-carbonyl)-phenyl]-3-(3,5-dichloro-phenyl)-urea
A solution of TFA/CH2Cl2 (0.49 mL/3.5 mL) was added to a solution of 4-(4-amino-5-{3-[3-(3,5-dichloro-phenyl)-ureido]-benzoyl}-pyrrolo[2,3-d]pyrimidin-7-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.32 mmol) in CH2Cl2 (1 mL) at 0 C. The reaction mixture was warmed to room temperature, stirred for 12 h, and concentrated in vacuo. The crude reaction mixture was quenched with H2O (5 mL) and Na2CO3 (5 mL) and extracted with CH2Cl2 (4×5 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo to provide the title compound as a yellow solid (0.16 g, 93%). MS: 525.5 (MH+); HPLC Rf: 5.35 min. (HPLC method 4); HPLC purity: 84%.

reactant | TFA CH2Cl2 | 0.49 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | 4-(4-amino-5-{3-[3-(3,5-dichloro-phenyl)-ureido]-benzoyl}-pyrrolo[2,3-d]pyrimidin-7-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C(C2=CC(=CC=C2)NC(=O)NC2=CC(=CC(=C2)Cl)Cl)=O | C30H31Cl2N7O4
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Amino-7-piperidin-4-yl-7H-pyrrolo[23-d]pyrimidine-5-carbonyl)-phenyl]-3-(3,5-dichloro-phenyl)-urea | 0.16 g, 93% | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)NC(=O)NC2=CC(=CC(=C2)Cl)Cl)C2CCNCC2 | C25H23Cl2N7O2
